US07601850B2
A. 2-(3-Hydroxy-3-pentyl)thiophene
To a stirred 0° C. mixture of ethyl thiophene-2-carboxylate (3.12 g, 20.0 mmol) in diethyl ether (100 ml) is added 1M ethylmagnesium bromide (60 ml, 60 mmol). The reaction is allowed to warm to RT and stirred for 3 d. The reaction is partitioned between Et2O and 1N NaHCO3. The organic layer was Na2SO4 dried and concentrated to give the title compound (3.4 g, 99%).

reactant | ethyl thiophene-2-carboxylate | 20.0 mmol, 3.12 g | S1C(=CC=C1)C(=O)OCC | C7H8O2S
reactant | ethylmagnesium bromide | 60 mmol, 1M, 60 ml | C(C)[Mg]Br
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-(3-Hydroxy-3-pentyl)thiophene | 3.4 g, 99% | OC(CC)(CC)C=1SC=CC1 | C9H14OS
